US06326359B1
(2R,3R,4S,5R)-2-{6-[(2,2-Diphenylethyl)amino]-2-[(phenylsulfanyl)methyl]-9H-purin-9-yl}-5(methoxymethyl)tetrahydro-3,4-furandiol
{9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl methanesulfonate (400 mg, 0.7 mmol) (Preparation 25), triethylamine (0.2 ml, 1.4 mmol) and thiophenol (100 mg, 0.9 mmol) were dissolved in tetrahydrofuran (3 ml) and the reaction mixture stirred for 24 hr at room temperature. The solvent was then removed under reduced pressure and the residue purified by column chromatography on silica gel eluting with a solvent gradient of dichloromethane:methanol (99:1) increasing in polarity to (95:5). This gave the title compound (150 mg) as a foam. MS: 584 (MH+).

reactant | {9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl methanesulfonate | 0.7 mmol, 400 mg | CS(=O)(=O)OCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)COC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H31N5O7S
reactant | triethylamine | 1.4 mmol, 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | thiophenol | 0.9 mmol, 100 mg | C1(=CC=CC=C1)S | C6H6S
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | (2R,3R,4S,5R)-2-{6-[(2,2-Diphenylethyl)amino]-2-[(phenylsulfanyl)methyl]-9H-purin-9-yl}-5(methoxymethyl)tetrahydro-3,4-furandiol | 150 mg | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)CSC1=CC=CC=C1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)COC)C1=CC=CC=C1 | C32H33N5O4S
